US09126993B2
To a stirred solution of ethyl 2-(2-(4-fluorophenyl)thiazol-4-yl)-2-methylpropanoate (4.56 g, 15.5 mmol) in 1:1:1 THF/ethanol/water (45 mL) was added lithium hydroxide monohydrate (2.93 g, 69.8 mmol). The reaction was stirred overnight, concentrated and redissolved in water (175 mL). The solution was washed with ether (1×100 mL), acidified by the addition of 1.0 N HCl (80 mL) and extracted with ethyl acetate (2×70 mL). The combined extracts were dried (Na2SO4) and concentrated to afford 2-(2(4-fluorophenyl)thiazol-4-yl)-2-methylpropanoic acid as a white solid (4.04 g, 98%). This material was used in the next step without purification.

reactant | ethyl 2-(2-(4-fluorophenyl)thiazol-4-yl)-2-methylpropanoate | 15.5 mmol, 4.56 g | FC1=CC=C(C=C1)C=1SC=C(N1)C(C(=O)OCC)(C)C | C15H16FNO2S
reactant | lithium hydroxide monohydrate | 69.8 mmol, 2.93 g | O.[OH-].[Li+]
solvent | THF ethanol water | 45 mL | C1CCOC1.C(C)O.O
product | 2-(2(4-fluorophenyl)thiazol-4-yl)-2-methylpropanoic acid | 4.04 g, 98% | FC1=CC=C(C=C1)C=1SC=C(N1)C(C(=O)O)(C)C | C13H12FNO2S
